US06635138B1
3,3′-dimethylbenzidine;
α,α′-bis(4-aminophenyl)-1,4-diisopropyl benzene or 4,4′-isopropylidenedianiline or bisaniline p; α,α′-bis(4-aminophenyl)-1,3-diisopropyl benzene or 3,3′-isopropylidonedianiline or bisaniline m;

reactant | α,α′-bis(4-aminophenyl)-1,4-diisopropyl benzene | NC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)N | C24H28N2
reactant | 4,4′-isopropylidenedianiline | C(C)(C)(C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C15H18N2
reactant | bisaniline p | CC(C)(C1=CC=C(C=C1)C(C)(C)C2=CC=C(C=C2)N)C3=CC=C(C=C3)N | C24H28N2
reactant | α,α′-bis(4-aminophenyl)-1,3-diisopropyl benzene | NC1=CC=C(C=C1)C(C)(C)C1=CC(=CC=C1)C(C)(C)C1=CC=C(C=C1)N | C24H28N2
reactant | bisaniline m | CC(C)(C1=CC=C(C=C1)N)C2=CC(=CC=C2)C(C)(C)C3=CC=C(C=C3)N | C24H28N2
product | 3,3′-dimethylbenzidine | CC=1C=C(C=CC1N)C1=CC(=C(N)C=C1)C | C14H16N2
